US07452880B2
Step 4. Preparation of [4-Chloro-2-(2-chloro-phenoxy)-pyrimidin-5-yl]-thiophen-2-yl-methanone
[4-Chloro-2-(2-chloro-phenoxy)-pyrimidin-5-yl]-thiophen-2-yl-methanol (98 mg, 0.28 mmol) was dissolved in 15 mL dry toluene, and 250 mg of MnO2 was added. The reaction mixture was heated to reflux for 30 minutes, and water was removed using a Dean Stark apparatus. The hot reaction mixture was filtered through Celite, and the Celite was washed five times with 3.5 mL of hot EtOAc. The combined organics were evaporated under reduced pressure to yiled 82 mg of [4-Chloro-2-(2-chloro-phenoxy)-pyrimidin-5-yl]-thiophen-2-yl-methanone as an oil. Mass Spec. M+H=352.

reactant | [4-Chloro-2-(2-chloro-phenoxy)-pyrimidin-5-yl]-thiophen-2-yl-methanol | 0.28 mmol, 98 mg | ClC1=NC(=NC=C1C(O)C=1SC=CC1)OC1=C(C=CC=C1)Cl | C15H10Cl2N2O2S
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 250 mg | O=[Mn]=O
product | [4-Chloro-2-(2-chloro-phenoxy)-pyrimidin-5-yl]-thiophen-2-yl-methanone | ClC1=NC(=NC=C1C(=O)C=1SC=CC1)OC1=C(C=CC=C1)Cl | C15H8Cl2N2O2S
